US04444868
By the reaction of 20.0 g of γ-picolin and 26.2 g of p-hydroxybenzaldehyde in 65.8 g of acetic anhydride, there was obtained 4-[2-(4-hydroxyphenyl)-ethenyl]-pyridine. In 10 cm3 of N,N-dimethylacetamide, 2 g of the reaction product was dissolved and 1.23 g of triethylamine was further added thereto. This mixture was ice cooled and 1.34 g of methacrylic acid chloride was dropwise added thereto. After the reaction was completed, water was added to deposit crystals, which were separated by filtration. The separated crystals were recrystallized via a mixed solvent of ethyl acetate and hexane, to afford 2.16 g (80% in yield) of 4-[2-(4-methacryloyloxyphenyl)-ethenyl]-pyridine. The melting point of the crystals was 156° to 158° C.

reactant | γ-picolin | 20.0 g | N1=CC=C(C=C1)C | C6H7N
reactant | p-hydroxybenzaldehyde | 26.2 g | OC1=CC=C(C=O)C=C1 | C7H6O2
solvent | acetic anhydride | 65.8 g | C(C)(=O)OC(C)=O | C4H6O3
product | 4-[2-(4-hydroxyphenyl)-ethenyl]-pyridine | OC1=CC=C(C=C1)C=CC1=CC=NC=C1 | C13H11NO
